US09428456B2
(2.001a): 4-Chloro-N-(3-[1,3]dioxolan-2-yl-phenyl)-benzamide
A solution of 3-aminobenzaldehyde ethylene acetal (10 g, 60.5 mmol) and TEA (7.35 g, 72.6 mmol) in ethyl acetate (100 mL) at 0° C. is treated dropwise with 4-chlorobenzoyl chloride (9.44 mL, 72.6 mmol) during 30 min. The reaction mixture is stirred at RT for 3 h before dilution with EtOAc. The medium is washed twice with sat. aq. NaHCO3 (100 mL) and once with brine (100 mL). The organic layer is dried over MgSO4, filtered and evaporated. The residual oil is triturated with ethyl acetate and the resulting crystalline material is filtered to give the title compound (14.33 g, 78%) as a slightly pink solid; LC-MS B: tR=0.86 min; [M+H]+=304.03.

reactant | 3-aminobenzaldehyde ethylene acetal | 60.5 mmol, 10 g | C1COC(C2=CC(=CC=C2)N)O1 | C9H11NO2
reactant | 4-chlorobenzoyl chloride | 72.6 mmol, 9.44 mL | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-Chloro-N-(3-[1,3]dioxolan-2-yl-phenyl)-benzamide | 14.33 g, 78% | ClC1=CC=C(C(=O)NC2=CC(=CC=C2)C2OCCO2)C=C1 | C16H14ClNO3
